US07129208B2
To a solution of (C18H37)2NCOCH2OCH2COOH (1.0 g, 1.5 mmol) in CH2Cl2 (30 mL) 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.31 g, 1.6 mmol) was added and the reaction was stirred at room temperature. After 0.5 h Gly-Gly-Gly-OCH2Ph.TsOH (0.66 g, 1.5 mmol) and Et3N (0.6 mL) were added and the mixture was stirred overnight. The reaction mixture was then washed with water (20 mL), 0.5 N HCl (20 mL), water (20 mL), 10% aqueous Na2CO3 (20 mL), brine (20 mL), and then dried over MgSO4. The solvent was evaporated and the residue was crystallized form MeOH to yield (C18H37)2NCOCH2OCH2CO-Gly-Gly-Gly-OCH2Ph as a deliquescent white solid (1.26 g, 89%), mp 41–42° C. 1H-NMR (300 MHz, δ, CDCl3) 0.86 (6H, t, J=6.9 Hz), 1.24 (64H, m), 1.49 (4H, bs), 3.04 (2H, t, J=7.5 Hz), 3.24 (2H, t, J=7.5 Hz), 3.95–4.05 (6H, m), 4.09 (2H, s), 4.29 (2H, s), 5.12 (2H, s), 7.23 (1H, t, J=6.0 Hz), 7.30–7.35 (5H, m), 7.93 (1H, t, J=5.7 Hz), 8.27 (1H, t, J=5.7 Hz). 13C-NMR (75 MHz, δ, CDCl3): 13.9, 22.5, 26.7, 26.9, 27.4, 28.6, 29.2, 29.3, 29.6, 31.8, 41.0, 42.9, 46.3, 46.7, 66.9, 69.6, 71.7, 128.2, 128.4, 128.6, 135.3, 168.6, 169.7, 169.8, 170.0, 171.5. IR (KBr, cm−1): 1749 (CO), 1651 (CO).

reactant | (C18H37)2NCOCH2OCH2COOH | 1.5 mmol, 1.0 g | N(CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)C(=O)COCC(=O)O | C40H79NO4
reactant | CH2Cl2 | 1.6 mmol, 30 mL, 0.31 g | C(Cl)Cl | CH2Cl2
reactant | Gly-Gly-Gly-OCH2Ph | NCC(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1 | C13H17N3O4
reactant | TsOH | 1.5 mmol, 0.66 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | Et3N | 0.6 mL | CCN(CC)CC | C6H15N
product | (C18H37)2NCOCH2OCH2CO-Gly-Gly-Gly-OCH2Ph | 1.26 g, 89% | N(CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)C(=O)COCC(=O)NCC(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1 | C53H94N4O7
